US05675038
Reduction of undecanenitrile in n-propylamine and ethylene-diamine. Lithium, (0.21 g, 30 mmol) in small pieces, was added to a stirred solution of undecanenitrile (0.84 g, 5 mmol) in n-propylamine and ethylenediamine (1.0 mL). The temperature began to rise after 20 min and reached 32° after 30 min and the reaction mixture turned blue. An aliquot of the reaction mixture showed no nitrile by glpc. The reaction mixture was poured over crushed ice and extracted with ethyl acetate (2×50 mL). After distillation of the ethyl acetate the residue deposited crystals. The crystals were collected and dried to give 2-(n-decyl)imidazoline (0.23 g, 22%)

reactant | undecanenitrile | C(CCCCCCCCCC)#N | C11H21N
reactant | Lithium | 30 mmol, 0.21 g | [Li] | Li
reactant | undecanenitrile | 5 mmol, 0.84 g | C(CCCCCCCCCC)#N | C11H21N
reactant | n-propylamine | C(CC)N | C3H9N
solvent | ethylene-diamine | C(CN)N | C2H8N2
solvent | ethylenediamine | 1.0 mL | C(CN)N | C2H8N2
product | 2-(n-decyl)imidazoline | 0.23 g, 22% | C(CCCCCCCCC)C=1NCCN1 | C13H26N2
